US09062028B2
Step C. 1-(8-Bromo-2H-benzo[b][1,4]oxazin-4(3H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one
The title compound was prepared using a procedure analogous to 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one except that 5-bromo-1,2,3,4-tetrahydroquinoline, HCl salt was replaced by 8-bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine. LCMS, [M+H]+=404.1. 1H NMR (400 MHz, CDCl3) δ 7.33 (d, J=8.0 Hz, 1H), 7.26-7.21 (m, 1H), 7.00 (t, J=8.0 Hz, 1H), 6.78-6.71 (m, 2H), 6.64 (d, J=8.1 Hz, 1H), 4.36-4.28 (m, 2H), 3.98 (t, J=5.8 Hz, 2H), 3.95-3.90 (m, 2H), 2.80 (t, J=7.2 Hz, 2H), 2.24 (s, 3H), 2.19 (dt, J=13.1, 6.4 Hz, 2H), 2.02 (s, 3H).

reactant | 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | BrC1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C21H24BrNO2
reactant | 8-bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine | BrC1=CC=CC2=C1OCCN2 | C8H8BrNO
product | 1-(8-Bromo-2H-benzo[b][1,4]oxazin-4(3H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | BrC1=CC=CC2=C1OCCN2C(CCCOC2=C(C(=CC=C2)C)C)=O | C20H22BrNO3
